US05006531
N-[2-(1H-Indol-2-yl)phenyl]formamide
To a solution prepared from 20 g of 2-(2-aminophenyl)indole, 12.7 ml of formic acid and 500 ml of THF was added 26 g of dicyclohexyl carbodiimide at room temperature under N2. The resultant solution was stirred overnight at room temperature. The mixture was then filtered and the filtrate washed with aqueous NaHCO3 (2x), H2O and saturated NaCl solution and dried (MgSO4). Concentration gave a red oil which was purified by HPLC, using 1% EtOAc/CH2Cl2 as an eluent, to afford 11.45 g of solid, m.p. 147°-149° C.

reactant | 2-(2-aminophenyl)indole | 20 g | NC1=C(C=CC=C1)C=1NC2=CC=CC=C2C1 | C14H12N2
reactant | formic acid | 12.7 ml | C(=O)O | CH2O2
reactant | dicyclohexyl carbodiimide | 26 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | THF | 500 ml | C1CCOC1 | C4H8O
product | N-[2-(1H-Indol-2-yl)phenyl]formamide | 11.45 g | N1C(=CC2=CC=CC=C12)C1=C(C=CC=C1)NC=O | C15H12N2O
